US08378104B2
Intermediate 60: 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole
A mixture of 7-bromobenzothiazole (100.0 mg, 0.4671 mmol), bis(pinacolato)diboron (142 mg, 0.558 mmol), (1,1′bis-(diphenylphosphino)-ferrocene)palladium dichloride (17.1 mg, 0.0234 mmol), and potassium acetate (80.0 mg, 0.815 mmol) in 1,4-dioxane (4 mL) was heated to 90° C. for 3 h. The solution was concentrated in vacuo and purified by column chromatography (3 to 5% EtOAc:heptane) to afford 100 mg (82%) the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 1.42 (s, 12 H), 7.56 (dd, J=8.1, 7.1 Hz, 1 H), 7.89-7.97 (m, 1 H), 8.26 (dd, J=8.2, 1.1 Hz, 1 H), 9.08 (s, 1 H); MS (ESI): 262.10 [M+H]+; HPLC tR=1.59 min (TOF: polar—3 min).

reactant | 7-bromobenzothiazole | 0.4671 mmol, 100.0 mg | BrC1=CC=CC=2N=CSC21 | C7H4BrNS
reactant | bis(pinacolato)diboron | 0.558 mmol, 142 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.815 mmol, 80.0 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole | 100 mg, 82% | CC1(OB(OC1(C)C)C1=CC=CC=2N=CSC21)C | C13H16BNO2S
